US08134007B2
3-(2,3-Dichlorophenyl)pyridine-2,6-diamine
To a suspension of 3-bromopyridine-2,6-diamine (0.376 g, 2.00 mmol) in 1,4-dioxane (12 ml) and water (6 ml) was added 2,3-dichlorophenyl boronic acid (0.573 g, 3.00 mmol), potassium carbonate (0.552 g, 4.00 mmol) and palladium tetrakis(triphenylphosphine) (0.115 g, 0.01 mmol). The reaction was purged with nitrogen and heated at 80° C. for 18 hours. Further palladium tetrakis(triphenylphosphine) (0.115 g, 0.01 mmol) and 2,3-dichlorophenyl boronic acid (0.573 g, 3.00 mmol) were added and the reaction heated at 80° C. for a further 18 hours before concentrating in vacuo. The residue was taken up in ethyl acetate (20 ml) and washed with a saturated aqueous solution of K2CO3 before drying over MgSO4 and concentrating in vacuo. The residue was purified by silica gel column chromatography, eluting with 99:1 dichloromethane:methanol, then recrystallised from toluene to afford the title compound (0.180 g, 35% yield).

reactant | 3-bromopyridine-2,6-diamine | 2.00 mmol, 0.376 g | BrC=1C(=NC(=CC1)N)N | C5H6BrN3
reactant | 2,3-dichlorophenyl boronic acid | 3.00 mmol, 0.573 g | ClC1=C(C=CC=C1Cl)B(O)O | C6H5BCl2O2
reactant | potassium carbonate | 4.00 mmol, 0.552 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,3-dichlorophenyl boronic acid | 3.00 mmol, 0.573 g | ClC1=C(C=CC=C1Cl)B(O)O | C6H5BCl2O2
solvent | 1,4-dioxane | 12 ml | O1CCOCC1 | C4H8O2
solvent | water | 6 ml | O | H2O
catalyst | palladium tetrakis(triphenylphosphine) | 0.01 mmol, 0.115 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
catalyst | palladium tetrakis(triphenylphosphine) | 0.01 mmol, 0.115 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 3-(2,3-Dichlorophenyl)pyridine-2,6-diamine | 0.180 g, 35% yield | ClC1=C(C=CC=C1Cl)C=1C(=NC(=CC1)N)N | C11H9Cl2N3
